US03950528
3-Amino-1-(4-bromobenzyl)-pyrazol-5one ##SPC7##
9.2 g of metallic sodium are dissolved in 200 ml of ethanol. A mixture of 25 g of cyanoacetic acid ethyl ester and 35 g of p-bromobenzylhydrazine in 50 ml of ethanol is then added at room temperature. The mixture is warmed to 60°C for 2 hours, the substance which was precipitated is filtered off and the filtrate is evaporated. The residue is taken up with water, the mixture is shaken with ether and the aqueous phase is acidified with dilute acetic acid. The crude product is purified by twice recrystallising it from alcohol.

reactant | sodium | 9.2 g | [Na] | Na
reactant | cyanoacetic acid ethyl ester | 25 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | p-bromobenzylhydrazine | 35 g | BrC1=CC=C(CNN)C=C1 | C7H9BrN2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Amino-1-(4-bromobenzyl)-pyrazol-5one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)Br | C10H10BrN3O
